US04988701
A solution of 0.56 g of sodium methylate is MeOH (5 ml), cooled at 0° C., was treated with 0,71 ml of ethanethiol (CH3CH2SH). After 10 minutes, a solution of 3 g of 2-(4-methoxyphenoxymethyl)-3-α-chloroacetyl-1,3-thiazolidine in 10 ml MeOH was dropped into the mixture. After 30 minutes, the solvent was removed under reduced pressure and the residue was partitioned between 30% NaH2PO4 and ethyl acetate. The organic phase was washed with water, dried over Na2SO4 and concentrated to dryness to yield 2,9 g of 2-(4-methoxyphenoxymethyl)-3-ethylmercaptoacetyl- 1,3-thiazolidine after crystallization from isopropyl ether, m.p. 98°-110° C.

reactant | sodium methylate | 0.56 g | C[O-].[Na+]
reactant | ethanethiol | 0,71 ml | C(C)S | C2H6S
reactant | 2-(4-methoxyphenoxymethyl)-3-α-chloroacetyl-1,3-thiazolidine | 3 g | COC1=CC=C(OCC2SCCN2C(CCl)=O)C=C1 | C13H16ClNO3S
solvent | MeOH | 10 ml | CO | CH4O
solvent | MeOH | 5 ml | CO | CH4O
product | 2-(4-methoxyphenoxymethyl)-3-ethylmercaptoacetyl- 1,3-thiazolidine | 2,9 g | COC1=CC=C(OCC2SCCN2C(CSCC)=O)C=C1 | C15H21NO3S2
